US08686024B2
(1) Synthesis of tert-butyl N-(4-tetrahydropyranylmethyl)carbamate
To a solution of 4-aminomethyltetrahydropyran (500 mg, 4.4 mmol) in 5.0 mL of tetrahydrofuran was added triethylamine (537 mg, 5.3 mmol) and di-tert-butyl dicarbonate (1.0 g, 4.6 mmol) under ice-cooled conditions. After being stirred for 1 h, the reaction mixture was added water, and diluted with ethyl acetate. The separated organic layer was washed with brine, and dried over Na2SO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=80120 to 50/50) to obtain the title compound (855 mg, 91%).

reactant | 4-aminomethyltetrahydropyran | 4.4 mmol, 500 mg | NCC1CCOCC1 | C6H13NO
reactant | triethylamine | 5.3 mmol, 537 mg | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.6 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(4-tetrahydropyranylmethyl)carbamate | 855 mg, 91% | O1CCC(CC1)CNC(OC(C)(C)C)=O | C11H21NO3
